US05817693
e) Methyl-3-(3,4-Methylenedioxyphenyl)-6-(prop-1-yloxy)-1-oxo-indene-2-carboxylate
Methyl(1RS,2SR)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-3-oxo-indane-2-carboxylate (26.2 g, 71 mmol) was dissolved in toluene (250 mL) and DDQ (dichlorodicyano-quinone) (16.5 g, 71 mmol) was added. The mixture was heated at 80° C. for 2 h. then cooled, filtered and the solvent removed in vacuo. The product was purified by flash column chromatography on silica gel (eluant: EtOAc/hexane, 20:80) to give the title compound as an orange solid (11.3 g, 44 %); m.p. 125°-126° C. Anal. Calc. for C21H18O6 : C, 68.85; H, 4.95. Found: C, 68.45; H, 4.97.

reactant | Methyl(1RS,2SR)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)-3-oxo-indane-2-carboxylate | 71 mmol, 26.2 g | C1OC=2C=C(C=CC2O1)C1C(C(C2=CC(=CC=C12)OCCC)=O)C(=O)OC | C21H20O6
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl-3-(3,4-Methylenedioxyphenyl)-6-(prop-1-yloxy)-1-oxo-indene-2-carboxylate | 11.3 g, 44 % | COC(=O)C=1C(C2=CC(=CC=C2C1C1=CC2=C(C=C1)OCO2)OCCC)=O | C21H18O6
